US07973078B2
18.7 g of 3-chloro-2-methylaniline was dissolved in 120 mL of pyridine, and 22.9 g of p-toluene sulfonylchloride was added portionwise thereto over 30 minutes, followed by stirring at room temperature overnight. The reaction liquid was concentrated under reduced pressure, and to the obtained residue was added water, followed by extraction with ethyl acetate. The organic layer was washed with 1 M hydrochloric acid, saturated brine, an aqueous saturated sodium hydrogen carbonate solution, and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 34.6 g of N-(3-chloro-2-methylphenyl)-4-methylbenzenesulfonamide.

reactant | 3-chloro-2-methylaniline | 18.7 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | p-toluene sulfonylchloride | 22.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-chloro-2-methylphenyl)-4-methylbenzenesulfonamide | 34.6 g | ClC=1C(=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14ClNO2S
